US06066639
Upon reduction of methyl 4-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]-pyrimidin-6-yl)ethenyl]pyrrole-2-carboxylate with hydrogen and palladium-on-carbon catalyst (200 mg) analogously to that described in Example 8, there is obtained methyl 4-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrrole-2-carboxylate (380 mg, 95%): mp 236-238° C.: 1H NMR (DMSO-d6) δ 11.59 (s, 1H), 11.21 (s, 1H), 10.60 (s, 1H), 6.81 (s, 1H), 6.62 (s, 1H), 6.42 (s, 1H), 3.70 (s, 3H), 3.23 (br d, 1H, J=10.5 Hz), 2.82 (m, 1H), 2.57-2.43 (m, 3H), 1.87 (dd, 1H, J=15.2, 8.0 Hz), 1.68-1.43 (m, 3H), 1.18 (s, 9H).

reactant | methyl 4-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]-pyrimidin-6-yl)ethenyl]pyrrole-2-carboxylate | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C=CC=2C=C(NC2)C(=O)OC)O | C20H21N5O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 200 mg | [Pd] | Pd
product | methyl 4-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrrole-2-carboxylate | 380 mg, 95% | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC=2C=C(NC2)C(=O)OC)O | C20H27N5O4
